US07902367B2
Step 88a) [2-(4-Chlorophenyl)-4-methylthiazol-5-yl]methyltriphenylphosphonium iodide
Triphenylphosphine (1.15 g, 4.26 mmol) and sodium iodide (580 mg, 3.87 mmol) were added to 5-chloromethyl-2-(4-chlorophenyl)-4-methylthiazole (1.00 g, 3.87 mmol) in tetrahydrofuran (20 mL). The reaction mixture was stirred for 5 hours while being stirred. Subsequently, the crystallized powdery product was collected by filtration and washed with hexane to give 2.43 g (quant.) of the desired compound as a colorless powder.

reactant | Triphenylphosphine | 4.26 mmol, 1.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium iodide | 3.87 mmol, 580 mg | [I-].[Na+]
reactant | 5-chloromethyl-2-(4-chlorophenyl)-4-methylthiazole | 3.87 mmol, 1.00 g | ClCC1=C(N=C(S1)C1=CC=C(C=C1)Cl)C | C11H9Cl2NS
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | [2-(4-Chlorophenyl)-4-methylthiazol-5-yl]methyltriphenylphosphonium iodide | [I-].ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C29H24ClNPS.HI/c1-22-28(33-29(31-22)23-17-19-24(30)20-18-23)21-32(25-11-5-2-6-12-25,26-13-7-3-8-14-26)27-15-9-4-10-16-27;/h2-20H,21H2,1H3;1H/q+1;/p-1
